US06051288
First, 1.2 g (6.1 mmol) of 4-pentyl benzoic acid was mixed with 1.1 g (9.1 mmol) of thionyl chloride, 0.1 ml of pyridine, and 3 ml of toluene, and reacted at 80° C. for 2 hours. Excess amount of thionyl chloride and toluene were distilled off at a reduced pressure to obtain a crude 4-pentylbenzoyl chloride.

reactant | 4-pentyl benzoic acid | 6.1 mmol, 1.2 g | C(CCCC)C1=CC=C(C(=O)O)C=C1 | C12H16O2
reactant | thionyl chloride | 9.1 mmol, 1.1 g | S(=O)(Cl)Cl | Cl2OS
reactant | pyridine | 0.1 ml | N1=CC=CC=C1 | C5H5N
solvent | toluene | 3 ml | C1(=CC=CC=C1)C | C7H8
product | 4-pentylbenzoyl chloride | C(CCCC)C1=CC=C(C(=O)Cl)C=C1 | C12H15ClO
